US07846960B2
2′-Amino-4′-methoxy-biphenyl-4-carboxylic Acid Methyl Ester
To 4′-Methoxy-2′-nitro-biphenyl-4-carboxylic acid methyl ester (4.00 g) suspended in ethanol (150 mL) and ethyl acetate (150 mL) is added 5% palladium on carbon (0.300 g). The reaction mixture is placed under an atmosphere of hydrogen (50 psi) and is shaken on a Parr apparatus. After 18 h, the reaction mixture is degassed with nitrogen and is filtered through a plug of silica gel, eluting with 700 mL ethyl acetate and 600 mL methylene chloride. The filtrate is evaporated to afford the title compound (3.52 g, >99%) as a white solid.

reactant | 4′-Methoxy-2′-nitro-biphenyl-4-carboxylic acid methyl ester | 4.00 g | COC(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)OC)[N+](=O)[O-] | C15H13NO5
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.300 g | [Pd] | Pd
product | 2′-Amino-4′-methoxy-biphenyl-4-carboxylic Acid Methyl Ester | 3.52 g, >99% | COC(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)OC)N | C15H15NO3
